US04519938
Preparation of 2-methyl-2-(4-nitrophenyl)-1,3 dioxolane
P-Nitroacetophenone (1.65 g, 10 m mol), ethylene glycol (5 ml, 89 m mol), triethyl orthoformate (2.96 g, 20 m mol), and p-toluenesulfonic acid (0.086 g, 0.5 m mol) were combined in methylene chloride (4 ml). The solution was heated with an oil bath (50°-70° C., 6 hrs), cooled to room temperature, and poured into excess 10% sodium hydroxide solution. The phases were separated and the aqueous phase was extracted twice with methylene chloride. The combined organic phase was washed three times with water and dried with anhydrous sodium sulphate. Evaporation of the solvent left a light yellow product (1.78 g) with mp. 69°-71° C., [lit. 73°-75° C., see J. Pharm. Sci. 57, 784 (1968)].

reactant | P-Nitroacetophenone | 1.65 g | CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3
reactant | triethyl orthoformate | 2.96 g | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 0.086 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | 2-methyl-2-(4-nitrophenyl)-1,3 dioxolane | CC1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO4
